US08106077B2
To a room temperature solution of 5-(4-bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-[1,2,3]triazole (50 mg, 0.110 mmol) in DMF (1 mL) are added 4-ethynyl-benzoic acid methyl ester (18 mg, 0.110 mmol) and triethylamine (107 μL, 0.770 mmol). The reaction mixture is degassed for 20 minutes with nitrogen. To the reaction mixture are added dichloro(bistriphenylphosphine) palladium (II) (8 mg, 0.011 mmol, 10 mol %) and zinc (II) triflate (40 mg, 0.110 mmol). The reaction mixture is heated to 80° C. After 3 h, the reaction is concentrated and the residue is chromatographed (40 g SiO2, 0% to 5% EtOAc/Hexanes) to yield 4-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenylethynyl}-benzoic acid methyl ester (38 mg, 64%). LC/MS m/e 534.2 (M+1).

reactant | 5-(4-bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-[1,2,3]triazole | 0.110 mmol, 50 mg | BrC1=C(C=C(OCC2=C(N=NN2C2=C(C=CC=C2Cl)Cl)C(C)C)C=C1)C | C19H18BrCl2N3O
reactant | 4-ethynyl-benzoic acid methyl ester | 0.110 mmol, 18 mg | COC(C1=CC=C(C=C1)C#C)=O | C10H8O2
reactant | triethylamine | 0.770 mmol, 107 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | zinc (II) triflate | 0.110 mmol, 40 mg | [O-]S(=O)(=O)C(F)(F)F.[Zn+2].[O-]S(=O)(=O)C(F)(F)F
product | 4-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenylethynyl}-benzoic acid methyl ester | 38 mg, 64% | COC(C1=CC=C(C=C1)C#CC1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C29H25Cl2N3O3
